US07754737B2
A stirred solution of (±)-tert-butyl 2-(methoxy(methyl)carbamoyl)morpholine-4-carboxylate (1.73 g, 6.4 mmol) in dry THF (40 mL) was cooled in an ice-salt bath and 1.34 M 4-methoxybutylmagnesium chloride in THF (10 mL, 1.34 mmol) was added dropwise over 3 min. The cooling bath was allowed to expire and the mixture was stirred at rt for 6 h, poured into ice cold 3% aq HCl (100 mL) and extracted with ether (2×100 mL). The combined ether extracts were washed with satd aq NaHCO3 (35 mL), dried over MgSO4 and concentrated to afford (±)-tert-butyl 2-(5-methoxypentanoyl)morpholine-4-carboxylate (1.78 g, 93%) as an oil.

reactant | (±)-tert-butyl 2-(methoxy(methyl)carbamoyl)morpholine-4-carboxylate | 6.4 mmol, 1.73 g | CON(C(=O)C1CN(CCO1)C(=O)OC(C)(C)C)C | C12H22N2O5
reactant | 4-methoxybutylmagnesium chloride | 1.34 M | COCCCC[Mg]Cl
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 1.34 mmol, 10 mL | C1CCOC1 | C4H8O
product | (±)-tert-butyl 2-(5-methoxypentanoyl)morpholine-4-carboxylate | 1.78 g, 93% | COCCCCC(=O)C1CN(CCO1)C(=O)OC(C)(C)C | C15H27NO5
